US04110458
(3-Cyano-2-pyridyl)oxamic acid
(3-Cyano-2-pyridyl)oxamic acid ethyl ester (0.005 mole) is stirred in 50 ml. water and 5.0 ml. of N NaOH is slowly added. After one half hour the solution is filtered and the filtrate is acidified to pH 2 with N HCl, giving the title compound.

reactant | (3-Cyano-2-pyridyl)oxamic acid ethyl ester | 0.005 mole | C(C)OC(C(=O)NC1=NC=CC=C1C#N)=O | C10H9N3O3
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | (3-Cyano-2-pyridyl)oxamic acid | C(#N)C=1C(=NC=CC1)NC(C(=O)O)=O | C8H5N3O3
